US08748443B2
Part A. Preparation of 1-(3-tert-butyl-5-iodo-4-methoxyphenyl)-3-isopropylurea
3-tert-Butyl-5-iodo-4-methoxyaniline (305 mg, 1 mmol) and isopropyl isocyanate were reacted in the same manner as Example 15 Part A to give the title compound

reactant | 3-tert-Butyl-5-iodo-4-methoxyaniline | 1 mmol, 305 mg | C(C)(C)(C)C=1C=C(N)C=C(C1OC)I | C11H16INO
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | 1-(3-tert-butyl-5-iodo-4-methoxyphenyl)-3-isopropylurea | C(C)(C)(C)C=1C=C(C=C(C1OC)I)NC(=O)NC(C)C | C15H23IN2O2
